US07566781B2
Triphenyl phosphine (5.1 g) and a THF solution (5 mL) of diisopropyl azodicarboxylate (3.9 mL) were added in that order a THF solution (40 mL) of the compound (2.0 g) obtained in Production Example 11-1 and ethyl 4-hydroxybenzenecarboxylate (2.7 g), and stirred at room temperature for 3 hours. The reaction solution was concentrated under reduced pressure, and the resulting residue was purified through silica gel column chromatography (hexane/ethyl acetate=9/1 to 3/2) to obtain the entitled compound (4.4 g).

reactant | Triphenyl phosphine | 5.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 3.9 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | THF | 40 mL | C1CCOC1 | C4H8O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
product | ethyl 4-hydroxybenzenecarboxylate | 2.7 g | OC1=CC=C(C=C1)C(=O)OCC | C9H10O3
